US07700641B2
C. Synthesis of 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1D, and making non-critical variations to replace 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 5-fluoro-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one, the title compound was obtained (72%) as a pale yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 9.31 (s, 1H), 7.13 (dd, 1H), 7.02 (dd, 2H), 6.82 (d, 1H), 6.59 (d, 2H), 6.39 (s, 1H), 5.87 (d, 2H), 5.07-4.96 (m, 2H), 4.84 (s, 1H); 13C NMR (75 MHz, DMSO-d6) δ 176.1, 160.5, 157.4, 153.9, 150.5, 147.5, 140.2, 139.6, 139.1, 132.3 (d, 2JCF=33.3 Hz), 115.3, 114.5 (m), 114.2, 113.9, 111.9 (d, 1JCF=98.7 Hz), 109.9, 109.7 (d, 2JCF=32.7 Hz), 101.3, 98.3, 48.5, 36.8; MS (ES+) m/z 436.2 (M+1).

reactant | 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(C1=CC2=C(OCO2)C=C1O)O | C20H20BrNO5
reactant | 5-fluoro-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | FC=1C=C2C(C(N(C2=CC1)CC=1OC(=CC1)C(F)(F)F)=O)(C1=CC2=C(OCO2)C=C1O)O | C21H13F4NO6
product | 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | FC=1C=C2C(C(N(C2=CC1)CC=1OC(=CC1)C(F)(F)F)=O)C1=CC2=C(OCO2)C=C1O | C21H13F4NO5
